US07534797B2
cis-[3-(4-Chloro-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutyl]-methanol
To a solution of cis-3-(4-chloro-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutanecarboxylic acid methyl ester (2.15 g, 5.49 mmol) in CH2Cl2 (85 mL), cooled by dry ice/acetone, was added DIBAL (1M in toluene, 12.4 mL, 12.4 mmol) over 5 min. Note that the ester started precipitating at the low temperature; but upon adding the DIBAL solution, a clear, pale yellow solution formed. After 50 min, the dry ice/acetone bath was replaced with and ice/water bath. The reaction was quenched 2.5 h later by adding Na2SO4.10 H2O. A very slow gas evolution occurred, even with vigorous stirring or sonication. MeOH (2 mL) was added at ambient temperature, and a precipitate slowly formed, which was filtered off and washed with 150 mL of 10% MeOH in CH2Cl2. The combined filtrate and washings were concentrated, the resulting solid was suspended in 80 mL of 10% MeOH/CH2Cl2, heated briefly to 45° C., and cooled to −20° C. overnight. The white solid was filtered off and dried in vacuo, yielding the title compound. The aluminum-containing precipitate was suspended in potassium sodium tartrate solution and extracted with CH2Cl2 (3×100 mL), the combined extracts were dried over MgSO4, filtered, and combined with the mother liquor of the white solid. This material was adsorbed onto Hydromatrix and chromatographed on silica gel [Jones Flashmaster, 10 g/70 mL cartridge, eluting with CH2Cl2 (1-7)→CH2Cl2:EtOAc 5:1 (8-32)→CH2Cl2:EtOAc 4:1 (33-43)] to give a second crop of the title compound. 1H NMR (CDCl3, 400 MHz): δ=1.79 (brs, 1H), 2.40-2.53 (m, 3H), 2.59-2.71 (m, 2H), 3.74 (brs, 2H), 5.13-5.23 (mc, 1H), 7.60 (s, 1H), 8.60 (s, 1H). MS (ES+): m/z 364.0/366.0 (100/40) [MH+]. HPLC: tR=2.9 min (OpenLynx, polar—5 min).

reactant | cis-3-(4-chloro-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutanecarboxylic acid methyl ester | 5.49 mmol, 2.15 g | COC(=O)[C@@H]1C[C@@H](C1)N1C=C(C2=C1N=CN=C2Cl)I | C12H11ClIN3O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | DIBAL | 12.4 mmol, 1M, 12.4 mL | CC(C)C[AlH]CC(C)C
solvent | CH2Cl2 | 85 mL | C(Cl)Cl | CH2Cl2
product | cis-[3-(4-Chloro-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutyl]-methanol | ClC=1C2=C(N=CN1)N(C=C2I)[C@H]2C[C@H](C2)CO | C11H11ClIN3O
